US09102614B2
Preparation of (S)-ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyl-oxy)naphthalen-2-yl)-2-hydroxyacetate:
A solution of ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate (1.18 g, 2.52 mmol) in PhMe (20 mL) was cooled to −40° C. (dry ice/CH3CN). (R) —CBS catalyst (140 mg, 0.504 mmol) was introduced, followed by distilled catecholborane (neat, 402 μL, 3.77 mmol) over a 5 min period. After 30 min, the reaction was warmed to ˜−20° C. EtOAc (20 mL) was added. Then 15% Na2CO3 (10 mL) was added. The reaction was stirred vigorously as it was warmed to 23° C. overnight. The next day, the organic phase was washed (with vigorous stirring) with more 15% Na2CO3 (10 mL portions for 30 min each) until the washes were colorless. After the fifth wash, the organic phase was washed once with saturated NH4Cl (10 mL) for 10 min, then dried (MgSO4), filtered, and concentrated. The residue was dissolved in hexane and re-concentrated. The residue was treated with benzene, filtered, and wet-loaded onto a silica gel column and purified by flash chromatography (ethyl acetate/hexanes) giving the desired product (886 mg, 75% yield). 1H NMR (400 MHz, CDCl3) δ 8.41 (d, J=8.2 Hz, 1H), 8.09 (d, J=8.6 Hz, 1H), 7.71 (dd, J=8.6, 8.2 Hz, 1H), 7.66 (dd, J=8.6, 8.6 Hz, 1H), 5.84 (d, J=2.4 Hz, 1H), 4.34-4.20 (m, 2H), 3.41 (d, J=2.4 Hz, 1H), 2.63 (s, 3H), 1.22 (t, J=7.0 Hz, 3H). 19F NMR (377 MHz, CDCl3) δ−73.0 (s).

reactant | ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | 2.52 mmol, 1.18 g | BrC1=C(C(=C(C2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O)C | C16H12BrF3O6S
reactant | dry ice CH3CN | C(=O)=O.CC#N
reactant | catecholborane | 3.77 mmol, 402 μL | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | PhMe | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | (R) —CBS catalyst | 0.504 mmol, 140 mg | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (S)-ethyl 2-(4-bromo-3-methyl-1-(trifluoromethylsulfonyl-oxy)naphthalen-2-yl)-2-hydroxyacetate | 886 mg, 75% yield | BrC1=C(C(=C(C2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)O)C | C16H14BrF3O6S
